US05545644
B. (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-methylaminosulfonylmethylphenyl)-N-trifluoroacetylamino)propene
(R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene and 2-bromo-4-methylaminosulfonylmethyl-N-trifluoroacetylaniline were used. Column chromatography using elution with 4% acetone in methylene chloride afforded the title compound as a white foam (44%): FAB LRMS (m/z, relative intensity) 620 ([MH+ with 81Br], 618 ([MH+ with 79Br], 98), 576 (50), 574 (63), 512 (17), 484 (33).

reactant | (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCO | C15H19NO3
reactant | 2-bromo-4-methylaminosulfonylmethyl-N-trifluoroacetylaniline | BrC1=C(NC(C(F)(F)F)=O)C=CC(=C1)CS(=O)(=O)NC | C10H10BrF3N2O3S
product | (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-methylaminosulfonylmethylphenyl)-N-trifluoroacetylamino)propene | 44% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)CS(=O)(=O)NC)Br | C25H27BrF3N3O5S
